US06831106B1
b) 1-Bromo-3-methoxymethoxy-2-methylbenzene
13.9 g (74 mmol) of 3-bromo-2-methylphenol are dissolved in 120 mL of dimethylformamide and the mixture is cooled to 0° C. 3.6 g (90 mmol) of 60% sodium hydride are then added portionwise and the medium is stirred for 1 hour. 6.8 mL (90 mmol) of methoxymethyl chloride are then added slowly and the medium is warmed to room temperature and then stirred for 1 hour. After the usual treatment, the residue is purified by chromatography on silica gel (eluent: 80 heptane/20 ethyl acetate). The desired product is obtained in the form of a colourless oil (m=16.2 g; Y=95%).

reactant | 3-bromo-2-methylphenol | 74 mmol, 13.9 g | BrC=1C(=C(C=CC1)O)C | C7H7BrO
reactant | sodium hydride | 90 mmol, 3.6 g | [H-].[Na+]
reactant | methoxymethyl chloride | 90 mmol, 6.8 mL | COCCl | C2H5ClO
solvent | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
product | 1-Bromo-3-methoxymethoxy-2-methylbenzene | BrC1=C(C(=CC=C1)OCOC)C | C9H11BrO2
